// Generated for: spectre
// Generated on: Oct 28 17:08:15 2024
// Design library name: LDO_JSSC2010_Jianping_N65
// Design cell name: tb_PSR_1m
// Design view name: schematic
simulator lang=spectre
global 0
parameters C1 C2 CM IB R1
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mim
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_dnw
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip_npn
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfrtmom
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_disres
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_res
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_hvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_lvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_sa
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_esd
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmim
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25ud18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25ud18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfjvar
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rtmom
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_rpo
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_hvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfind
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_lvt

// Library name: LDO_JSSC2010_Jianping_N65
// Cell name: LDO_Core
// View name: schematic
subckt LDO_Core IB VFB_IN VFB_OUT VIN VOUT VREF VSS
    M16 (net20 net16 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M21 (net22 net20 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M24 (net26 net16 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M12 (net32 net32 net35 VDD) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M11 (VFB_OUT net32 VOUT VDD) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M5 (net35 net37 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M4 (net42 net42 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M3 (net37 net42 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    C1 (VOUT net9) capacitor c=C1
    C3 (net20 VOUT) capacitor c=CM
    C2 (net37 VSS) capacitor c=C2
    R1 (IB net9) resistor r=R1
    M33 (net16 net16 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M0 (VOUT net26 VIN VIN) pch_mac l=500n w=50u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=2.4e-11 as=2.4e-11 pd=100.96u ps=100.96u nrd=0.0054 \
        nrs=0.0054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M31 (IB IB VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 sd=200n \
        ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 sa=175n \
        sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M32 (net16 net9 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M15 (net20 VREF VFB_IN VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M22 (net22 net22 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M23 (net26 net22 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M14 (net32 IB VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M13 (VFB_OUT IB VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M6 (net41 IB VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M2 (net37 VREF net41 VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M1 (net42 net35 net41 VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
ends LDO_Core
// End of subcircuit definition.

// Library name: LDO_JSSC2010_Jianping_N65
// Cell name: tb_PSR_1m
// View name: schematic
V3 (net7 0) vsource dc=1 type=dc
V2 (VIN 0) vsource dc=1 mag=1 type=dc
V1 (VREF 0) vsource dc=500.0m type=dc
V0 (VSS 0) vsource dc=0 type=dc
I1 (VOUT VSS) isource dc=1m type=dc
I2 (net7 IBIAS) isource dc=IB type=dc
C0 (VOUT VSS) capacitor c=10p
I0 (IBIAS net5 net5 VIN VOUT VREF VSS) LDO_Core
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
ac ac start=1 stop=1M annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
